US04800224
(R), (S)-1-[4-(2-bromoethyl)-phenyl]-2-phenylethylamine hydrochloride
A solution of 50 g (0.66 mol) of ammonium acetate in 200 ml of methanol, 2.7 g (0.43 mol) of sodium cyanoborohydride and about 100 mg of 4-tert-butylpyrocatechol are added to a solution of 20 g (0.066 mol) of 4-(2-bromoethyl)-phenyl benzyl ketone in 100 ml of dioxane. After the mixture has been stirred for 48 hours at room temperature, it is acidified with 50 ml of concentrated hydrochloric acid (pH 2). Thereafter, methanol and dioxane are substantially distilled off under about 2 kPa and are replaced by ethyl acetate. The solution is washed with twice 100 ml of water and evaporated down under about 2 kPa. The residue is taken up with ethanol/diethyl ether (1:1). The white precipitate formed is filtered off, and the filtrate is evaporated down to give an oil. After the addition of 50 ml of ethyl acetate, the product begins to crystallize. It is filtered off under suction and dried. Yield: 10.8 g (48% of theory) of white crystals. Melting point: 165°-168° C./decomposition.

reactant | ammonium acetate | 0.66 mol, 50 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.43 mol, 2.7 g | C(#N)[BH3-].[Na+]
reactant | 4-tert-butylpyrocatechol | about 100 mg | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
reactant | 4-(2-bromoethyl)-phenyl benzyl ketone | 0.066 mol, 20 g | C(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)CCBr | C16H15BrO
reactant | hydrochloric acid | 50 ml, pH 2 | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1-[4-(2-bromoethyl)-phenyl]-2-phenylethylamine hydrochloride | Cl.BrCCC1=CC=C(C=C1)[C@H](CC1=CC=CC=C1)N | InChI=1S/C16H18BrN.ClH/c17-11-10-13-6-8-15(9-7-13)16(18)12-14-4-2-1-3-5-14;/h1-9,16H,10-12,18H2;1H/t16-;/m0./s1
